US07399759B2
tert-Butyl [6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]methylcarbamate
tert-Butyl (6-cyano-2-pyridyl)methylcarbamate (1.6 g, 6.8 mmol) and methyl thiosalicylate (1.8 g, 10.9 mmol) were dissolved in toluene (6 ml), and triethylamine (3.0 ml, 21.5 mmol) was added thereto. The mixture was refluxed for 20 hrs. After cooling, the precipitates were collected by filtration and dissolved in chloroform. The solution was subjected to a silica gel column chromatography. The fractions eluted with chloroform-methanol (20:1, v/v) were collected, concentrated and recrystallized from hexane-chloroform to give the titled compound (1.8 g, 72%) as pale yellow crystals.

reactant | tert-Butyl (6-cyano-2-pyridyl)methylcarbamate | 6.8 mmol, 1.6 g | C(#N)C1=CC=CC(=N1)CNC(OC(C)(C)C)=O | C12H15N3O2
reactant | methyl thiosalicylate | 10.9 mmol, 1.8 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | triethylamine | 21.5 mmol, 3.0 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl [6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]methylcarbamate | 1.8 g, 72% | O=C1N=C(SC2=C1C=CC=C2)C2=CC=CC(=N2)CNC(OC(C)(C)C)=O | C19H19N3O3S
